US09107916B2
B. 2-[5-(3-methoxy-4-methylphenyl)-1H-pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared in 100% yield from 2-hydrazinylpyridine-4-carbonitrile hydrochloride salt (PREPARATION 3) and (2E)-3-(dimethylamino)-1-(3-methoxy-4-methylphenyl)prop-2-en-1-one according to the procedure for the preparation of Example 12, part B. 1H NMR (400 MHz, CDCl3): δ 2.24 (3H, s), 3.73 (3H, s), 6.51 (1H, d, J=1.6 Hz), 6.71-6.75 (2H, m), 7.08 (1H, d, J=8.0 Hz), 7.39 (1H, dd, J=5.2, 1.2 Hz), 7.77 (1H, d, J=1.2 Hz), 7.90 (1H, s), 8.47 (1H, d, J=5.2 Hz). [M+H] Calc'd for C17H14N4O, 291. Found, 291.

reactant | 2-hydrazinylpyridine-4-carbonitrile hydrochloride salt | Cl.N(N)C1=NC=CC(=C1)C#N
reactant | (2E)-3-(dimethylamino)-1-(3-methoxy-4-methylphenyl)prop-2-en-1-one | CN(/C=C/C(=O)C1=CC(=C(C=C1)C)OC)C | C13H17NO2
product | 2-[5-(3-methoxy-4-methylphenyl)-1H-pyrazol-1-yl]pyridine-4-carbonitrile | 100% yield | COC=1C=C(C=CC1C)C1=CC=NN1C1=NC=CC(=C1)C#N | C17H14N4O
